US07312212B2
(b) 4-Benzyloxycarbonylamino-3-fluoropiperidine Enantiomer 1
cis-(+)-4-Benzylamino-1-tert-butoxycarbonyl-3-fluoropiperidine [Enantiomer 1] (15.0 g, 0.049 mole) in ethanol (300 ml) was hydrogenated over 20% palladium hydroxide on carbon (4 g) at 30 psi for 5 h, then filtered through celite and evaporated. The crude amine was dissolved in ethyl acetate (100 mL), saturated sodium hydrogen carbonate solution (100 mL) was added followed by benzyl chloroformate (7.6 mL, 0.53 mole) and the mixture stirred vigorously for 4 h. The organic phase was separated dried and evaporated. The product was dissolved in DCM (75 mL) and stirred with TFA (20 mL) for 4 h then evaporated. The residue was basified with sodium carbonate solution, extracted with 10% methanol in DCM and the extracts dried and evaporated to give a white solid (12.1 g, 98%), [α]D+61.10 (MeOH).

reactant | cis-(+)-4-Benzylamino-1-tert-butoxycarbonyl-3-fluoropiperidine | 0.049 mole, 15.0 g | C(C1=CC=CC=C1)N[C@@H]1[C@@H](CN(CC1)C(=O)OC(C)(C)C)F | C17H25FN2O2
reactant | benzyl chloroformate | 0.53 mole, 7.6 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 4 g | [OH-].[OH-].[Pd+2]
product | 4-Benzyloxycarbonylamino-3-fluoropiperidine | 12.1 g, 98% | C(C1=CC=CC=C1)OC(=O)NC1C(CNCC1)F | C13H17FN2O2
